US07511145B2
Step 1: 1-(2-Bromo-phenyl)-2-phenyl-ethanol (Compound 424a)
A mixture of 2-bromobenzaldehyde (1 mL, 5.4 mmol) in diethylether (2 mL) was added to a flame dried flask, and flushed with argon. The temperature was reduced to −10° C. and benzylmagnesium chloride was slowly added to the flask via syringe. The reaction was stirred at −10° C. for 1 hour and then stirred at room temperature for 16 hours. The reaction was the poured over ice and acidified to pH 3. It was then extracted with ether (3×40 mL). The organic layers were combined, evaporated, and the resulting residue was purified via silica gel chromatography to produce 520 mg (33% yield) of the title intermediate.

reactant | 2-bromobenzaldehyde | 5.4 mmol, 1 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | diethylether | 2 mL | C(C)OCC | C4H10O
product | 1-(2-Bromo-phenyl)-2-phenyl-ethanol | 520 mg, 33% yield | BrC1=C(C=CC=C1)C(CC1=CC=CC=C1)O | C14H13BrO
